US07622589B2
1A) N-(4-Acetyl-2-methylphenyl)methanesulfonamide
To a solution of o-toluidine (10.7 ml, 100 mmol) and pyridine (8.49 ml, 105 mmol) in dichloromethane (20 mL) was added methanesulfonyl chloride (7.74 ml, 100 mmol) dropwise over 15 minutes at 0° C. The reaction mixture was stirred at room temperature for 1 hour. After cooling to 0° C., aluminum chloride (33.3 g, 250 mmol) was added carefully to the reaction mixture. Then acetyl chloride (10.7 ml, 150 mmol) was added dropwise over 20 minutes at 5˜20° C. The reaction mixture was stirred at room temperature for 0.5 hours, the reaction was monitored by using TLC and 1H-NMR, and after completion of the reaction, the reaction mixture was diluted with toluene and poured into 2N HCl aqueous solution with stirring at 0° C. The precipitate solid was filtered, washed with H2O and heptane, and dried in vacuo to give the title compound (20.3 g, 89.3 mmol, 89% yield in 2 steps) as a light orange powder.

reactant | o-toluidine | 100 mmol, 10.7 ml | NC=1C(=CC=CC1)C | C7H9N
reactant | pyridine | 105 mmol, 8.49 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 100 mmol, 7.74 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | aluminum chloride | 250 mmol, 33.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 150 mmol, 10.7 ml | C(C)(=O)Cl | C2H3ClO
reactant | HCl | 2N | Cl | ClH
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(4-Acetyl-2-methylphenyl)methanesulfonamide | 89.3 mmol, 20.3 g, 89% yield | C(C)(=O)C1=CC(=C(C=C1)NS(=O)(=O)C)C | C10H13NO3S
